* Z:\home\luki\Dokumenty\Semestr2\Elektronika\Tranzystory-chki\schemat1.asc
V1 N002 0
Q1 N001 N003 0 0 BC547B
R1 N002 N003 67800
V2 N001 0 10
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.dc V1 0 10 5M
.backanno
.end
