* Z:\home\luki\Dokumenty\Semestr2\Elektronika\Tranzystory-chki\schemat3.asc
V1 N002 0 10
V2 0 N003 1
R1 N001 N002 106
J1 N001 N003 0 NJF
.model NJF NJF
.model PJF PJF
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.jft
.dc V2 0 3600M 200M
.backanno
.end
